US04147784
Example 1--Preparation of 4,5-Dihydro-4-oxo-1,3-dithiolo (4,5-d)-pyridazine-2-ylidene-propanedinitrile (Compound 1)
To a stirred solution of 20 g (0.1 mole) disodiumdimercaptomethylene malononitrile dissolved in 250 ml of DMF was added 16.5 g (0.1 mole) of 4,5-dichloro-3-pyridiazone. The reaction mixture was stirred at room temperature (approximately 20° C.) for 0.25 hours and was thereafter poured with stirring into 1 liter of water. The resulting mixture was allowed to stand for four hours during which time a yellow-gray precipitate slowly formed. This precipitate was separated by filtration, washed with water, and dried in vacuo to yield 21.1 g (90% yield from the pyridiazone) of a yellow-gray solid, m.p. (decomposition) 310°-340° C.

reactant | disodiumdimercaptomethylene malononitrile | 0.1 mole, 20 g | SC(S)=C(C#N)C#N.[Na].[Na]
reactant | water | 1 liter | O | H2O
reactant | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 4,5-Dihydro-4-oxo-1,3-dithiolo (4,5-d)-pyridazine-2-ylidene-propanedinitrile | 90% yield | O=C1C2=C(C=NN1)SC(S2)=C(C#N)C#N | C8H2N4OS2
